US07820698B2
Step 2: 4-bromomethyl-benzene-sulphonamide
4-hydroxymethyl-benzene-sulphonamide (0.105 mg, 0.56 mmoles) was dissolved in DCM (5 mL). Polymer supported triphenylphosphine (294 mg, 2.4 mmoles/g, 1.12 mmoles) was added, and the mixture was stirred with a shaker at room temperature for 10 minutes. CBr4 (557 mg, 1.68 mmoles) was then added, and stirring was continued for 3 hours. The supported reagent was removed by filtration, the solvent was evaporated, and the crude material was purified by flash chromatography (SiO2, petroleum ether/AcOEt 9/1) to yield the title compound as a light-yellow solid (70 mg).

reactant | 4-hydroxymethyl-benzene-sulphonamide | 0.56 mmoles, 0.105 mg | OCC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO3S
reactant | triphenylphosphine | 1.12 mmoles, 294 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CBr4 | 1.68 mmoles, 557 mg | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl-benzene-sulphonamide | 70 mg | BrCC1=CC=C(C=C1)S(=O)(=O)N | C7H8BrNO2S
